US07491724B2
Step 4: Preparation of 2-[4-(3-Isopropyl-phenyl)-3,6-dihydro-2H-pyridine-1-carbonyl]-piperidine-3-carboxylic acid tert-butyl ester
To a 0° C. solution of piperidine-2,3-dicarboxylic acid 3-tert-butyl ester (100 mg) in DMF (0.6 mL) was added sequentially, 4-(3-isopropyl-phenyl)-1,2,3,6-tetrahydro-pyridine (97 mg), PyBOP (232 mg), and diisopropylethylamine (0.152 mL). The resultant mixture was stirred at rt overnight. The reaction solution was diluted with EtOAc and washed with saturated NaHCO3 solution (×3), water, and brine. The organic layers were dried over MgSO4, filtered, and concentrated to dry under reduced pressure. The residue was used in next step without further purifications. MS (ESI): 413.2 (M+H+).

reactant | piperidine-2,3-dicarboxylic acid 3-tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)C1C(NCCC1)C(=O)O | C11H19NO4
reactant | 4-(3-isopropyl-phenyl)-1,2,3,6-tetrahydro-pyridine | 97 mg | C(C)(C)C=1C=C(C=CC1)C=1CCNCC1 | C14H19N
reactant | PyBOP | 232 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.152 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[4-(3-Isopropyl-phenyl)-3,6-dihydro-2H-pyridine-1-carbonyl]-piperidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1C(NCCC1)C(=O)N1CCC(=CC1)C1=CC(=CC=C1)C(C)C | C25H36N2O3
